US07517873B2
To a solution of 2.55 g (0.007 mole) of (rac)-3-[benzyl-(2-chloro-5-nitro-pyrimidin-4-yl)-amino]-2-methyl-propanoic acid methyl ester in 50 mL of acetic acid, was added 2.550 g (0.0457 g-atom) of iron powder. The mixture was heated at 80 degrees for 2 hours, then filtered through Celite while still hot. The filtercake was washed with 200 mL of ethyl acetate, and the combined filtrate washed successively with 200 mL of water, 200 mL of 7.4 M ammonium hydroxide, 200 mL of water and 200 mL of brine. The aqueous layers were extracted with 200 mL of ethyl acetate, and the combined ethyl acetate layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from dichloromethane—hexanes to give 0.61 g of (rac)-9-benzyl-2-chloro-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-42) as off-white crystalline solid.

reactant | (rac)-3-[benzyl-(2-chloro-5-nitro-pyrimidin-4-yl)-amino]-2-methyl-propanoic acid methyl ester | 0.007 mole, 2.55 g | COC(C(CN(C1=NC(=NC=C1[N+](=O)[O-])Cl)CC1=CC=CC=C1)C)=O | C16H17ClN4O4
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.550 g | [Fe] | Fe
product | (rac)-9-benzyl-2-chloro-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.61 g | C(C1=CC=CC=C1)N1C2=C(NC(C(C1)C)=O)C=NC(=N2)Cl | C15H15ClN4O
